US07851635B2
3-Benzoylpropionic acid (3.56 g, 20.0 mmol) was dissolved in dichloromethane (50 mL), to the solution was added triethylamine (2.22 g, 22.0 mmol) and trimethylacetyl chloride (2.41 g, 20.0 mmol) at 0° C., and the mixture was stirred at room temperature for 60 hours. Subsequently, to the reaction mixture was successively added triethylamine (4.04 g, 40.0 mmol) and N,O-dimethylhydroxylamine (1.95 g, 20.0 mmol), and the mixture was further stirred at room temperature for 5 hours. To the reaction mixture was added water and 1 mol/L hydrochloric acid, and the mixture was extracted with chloroform. The organic layer was washed with aqueous sodium hydrogencarbonate and water and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The resulting residue was purified by column chromatography (chloroform/methanol=50/1→40/1) to give 3-(N-methoxy-N-methylcarbamoyl)-propiophenone (1.53 g, 35%).

reactant | 3-Benzoylpropionic acid | 20.0 mmol, 3.56 g | C(C1=CC=CC=C1)(=O)CCC(=O)O | C10H10O3
reactant | triethylamine | 22.0 mmol, 2.22 g | C(C)N(CC)CC | C6H15N
reactant | trimethylacetyl chloride | 20.0 mmol, 2.41 g | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | triethylamine | 40.0 mmol, 4.04 g | C(C)N(CC)CC | C6H15N
reactant | N,O-dimethylhydroxylamine | 20.0 mmol, 1.95 g | CNOC | C2H7NO
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3-(N-methoxy-N-methylcarbamoyl)-propiophenone | 1.53 g, 35% | CON(C(=O)CCC(=O)C1=CC=CC=C1)C | C12H15NO3
